US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(1-naphthyl)isoxazole
3-Hydroxy-5-(1-naphthyl)isoxazole (0.20 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.17 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.30 g, 89%) as a colorless powder.

reactant | 3-Hydroxy-5-(1-naphthyl)isoxazole | 0.20 g | OC1=NOC(=C1)C1=CC=CC2=CC=CC=C12 | C13H9NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.17 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(1-naphthyl)isoxazole | 0.30 g, 89% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC2=CC=CC=C12 | C20H22N2O4
